US08440700B2
4-(2-Hydroxy-2-methylpropoxy)benzaldehyde
5.00 g (40.94 mmol) of 4-hydroxybenzaldehyde, 4.44 g (40.94 mmol) of 1-chloro-2-methyl-2-propanol and 6.08 g (57.32 mmol) of sodium carbonate are initially charged in 50 ml of dry DMF and stirred under reflux for 24 h. After cooling to RT, 20 ml of ethyl acetate and 20 ml of sat. aqueous sodium bicarbonate solution are added. The phases are separated, and the organic phase is dried over magnesium sulfate. After removal of the solvent, the residue is purified by column chromatography on silica gel 60 (mobile phase gradient: cyclohexane/ethyl acetate 5:1→1:1). This gives a reddish solid which is used without further purification for the subsequent step.

reactant | 4-hydroxybenzaldehyde | 40.94 mmol, 5.00 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 1-chloro-2-methyl-2-propanol | 40.94 mmol, 4.44 g | ClCC(C)(O)C | C4H9ClO
reactant | sodium carbonate | 57.32 mmol, 6.08 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-Hydroxy-2-methylpropoxy)benzaldehyde | OC(COC1=CC=C(C=O)C=C1)(C)C | C11H14O3
